US08383820B2
3-(Tetrahydro-pyran-4-ylmethoxy)-benzoic acid
Prepared from tetrahydro-2H-pyran-4-yl-methanol and ethyl 3-hydroxybenzoate.

reactant | tetrahydro-2H-pyran-4-yl-methanol | O1CCC(CC1)CO | C6H12O2
reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
product | 3-(Tetrahydro-pyran-4-ylmethoxy)-benzoic acid | O1CCC(CC1)COC=1C=C(C(=O)O)C=CC1 | C13H16O4
